US06110962
(R)-5-{1-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxy]-2-phenyl-ethyl}-1 H-tetrazole
Trimethylaluminum (7.24 mL, 14.4 mmol, 2.0 M solution in toluene) was added to (R)-2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-phenyl-propionamide (1.33 g, 1.93 mmol) under a dry nitrogen atmosphere. Trimethylsilyl azide (1.92 mL, 14.4 mmol) was then added and the solution was heated in a 85° C. oil bath. After 7 h the reaction mixture was cooled to room temperature and diluted with ether. Water was cautiously added and after bubbling subsided, the mixture was partitioned between dilute aqueous HCl and ether. The ether phase was concentrated and triturated with petroleum ether, a small amount of methanol, a small amount of ether and finally petroleum ether to provide the title compound as a white solid (0.802 g, 57%): mp 238-239° C.: NMR (DMSO-d6); δ8.28 (d, J=8 Hz, 1 H), 8.07 (d, J=8 Hz, 1 H), 7.81-7.74 (m, 3 H), 7.62 (ddd, 8, 7, 1 Hz, 1 H), 7.57-7.53 (m, 2 H), 7.44 (ddd, 8, 7, 1 Hz, 1 H), 7.38-7.22 (m, 5 H), 6.60 (d, J=8 Hz, 1 H), 5.87 (dd, J=9, 7 Hz, 1 H), 3.90 (dd, J=13, 7, 1H), 3.80 (dd, J=13, 8, 1H); MS (-ESI): [M-H], 3 bromine isotope pattern, 731 (60%), 733 (90%) 735 (100%) 737 (60%); Anal. Calc. for C31H19Br3N40S: C, 50.64, H, 2.61, N, 7.62. Found: C, 49.65, H, 2.434, N, 7.16.

reactant | Trimethylaluminum | 14.4 mmol, 2.0 M, 7.24 mL | C[Al](C)C
reactant | (R)-2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-phenyl-propionamide | 1.93 mmol, 1.33 g | BrC1=C(O[C@@H](C(=O)N)CC2=CC=CC=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C31H20Br3NO2S
reactant | Trimethylsilyl azide | 14.4 mmol, 1.92 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | Water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (R)-5-{1-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxy]-2-phenyl-ethyl}-1 H-tetrazole | 0.802 g, 57% | BrC1=C(O[C@H](CC2=CC=CC=C2)C2=NN=NN2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C31H19Br3N4OS
